US04694066
(2) 4-benzoyloxy-4'-nitrobiphenyl
4-Benzoyloxybiphenol (40 g) is mixed with 310 ml of glacial acetic acid and heated to 85° C. Fuming nitric acid (100 ml) is added slowly while maintaining the reaction medium temperature between 85°-90° C. After complete addition, the reaction is cooled to room temperature.

reactant | 4-Benzoyloxybiphenol | 40 g | C(C1=CC=CC=C1)(=O)OC=1C=C(C(=CC1)O)C=1C(=CC=CC1)O | C19H14O4
reactant | nitric acid | 100 ml | [N+](=O)(O)[O-] | HNO3
solvent | acetic acid | 310 ml | C(C)(=O)O | C2H4O2
product | 4-benzoyloxy-4'-nitrobiphenyl | C(C1=CC=CC=C1)(=O)OC1=CC=C(C=C1)C1=CC=C(C=C1)[N+](=O)[O-] | C19H13NO4
